US07863283B2
7-Hydroxy-4-(isopropylamino)quinazoline-6-carbonitrile
7-Hydroxy-4-(isopropylamino)quinazoline-6-carbaldehyde (310 mg, 1.34 mmol) is presented as an initial charge in acetic acid (7 mL, 81 mmol) and admixed with sodium acetate (366 mg, 3.3 mmol) and also hydroxylamine hydrochloride (186 mg, 2.68 mmol). The batch is stirred at 130° C. for 18 hours. After cooling to room temperature, the batch is diluted with water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate. Removal of the solvent and also chromatographic purification (silica gel, dichloromethane/methanol: 0→30% methanol) of the residue gives the desired product in 38% yield (116 mg).

reactant | 7-Hydroxy-4-(isopropylamino)quinazoline-6-carbaldehyde | 1.34 mmol, 310 mg | OC1=C(C=C2C(=NC=NC2=C1)NC(C)C)C=O | C12H13N3O2
reactant | acetic acid | 81 mmol, 7 mL | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 3.3 mmol, 366 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.68 mmol, 186 mg | Cl.NO
solvent | water | O | H2O
product | 7-Hydroxy-4-(isopropylamino)quinazoline-6-carbonitrile | 38% yield | OC1=C(C=C2C(=NC=NC2=C1)NC(C)C)C#N | C12H12N4O
